* C:\users\aleksa\Desktop\petnica\rail_splitter\simulations\latching.asc
R2 N003 N007 1k
R1 N002 N001 1k
R3 out1 N003 10k
R4 0 N002 10k
V1 vcc 0 10
R5 N001 N007 0.1
V2 N006 0 1.8
V3 vee 0 -10
R7 out2 N004 1k
R13 N007 0 6
XU1 N002 N003 vcc vee out1 LT1001
XU2 out1 N006 vcc vee out2 LT1001
R6 N022 N013 0.1
R8 N014 N013 1k
R9 N016 N022 1k
R10 N015 N016 10k
R11 0 N014 10k
XU3 N014 N016 vcc vee N015 LT1001
R12 N013 0 6
XU5 N015 N020 vcc vee N017 LT1001
V4 N020 0 1.8
R16 N018 N017 1k
D1 N004 N005 1N4148
D2 N018 N005 1N4148
Q1 N010 N005 0 0 2N2222
Q2 N010 N019 0 0 2N2222
R17 N008 N010 1k
R18 vcc N008 10k
R19 N009 N019 10k
Q3 N009 N008 vcc 0 2N2907
C1 vcc N008 1µ
M1 N001 cutoff+ vcc vcc Si7469DP
R21 N009 0 1k
R20 N009 cutoff+ 1k
M2 N022 cutoff- vee vee IRFP240
D3 N009 N011 1N4148
Q4 cutoff- N021 vee 0 2N2222
Q5 cutoff- N012 vcc 0 2N2907
R14 N012 N011 1k
R15 N021 N011 1k
.model D D
.lib C:\users\aleksa\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\aleksa\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\aleksa\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 0.5ms 0 500n uic
.lib LTC.lib
.backanno
.end
